US07612114B2
(R)-6-{2-{Ethyl[4-(2-piperidin-1-ylethyl)benzyl]amino}phenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid (R)-6-{2-[(4-carboxymethylbenzyl)ethylamino]phenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (28 mg) and piperidine (24 mg) according to an analogous synthetic method to Example 715 and purified by LC-MS, the title compound (7.6 mg) was obtained.

reactant | pivalic acid (R)-6-{2-[(4-carboxymethylbenzyl)ethylamino]phenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 28 mg | C(=O)(O)CC1=CC=C(CCCNC2=C(C=CC=C2)[C@H]2CC=3C=CC(=CC3CC2)OC(C(C)(C)C)=O)C=C1 | C32H37NO4
reactant | piperidine | 24 mg | N1CCCCC1 | C5H11N
product | (R)-6-{2-{Ethyl[4-(2-piperidin-1-ylethyl)benzyl]amino}phenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 7.6 mg | C(C)N(C1=C(C=CC=C1)[C@H]1CC=2C=CC(=CC2CC1)O)CC1=CC=C(C=C1)CCN1CCCCC1 | C32H40N2O
